US09034866B2
A solution of 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (130 mg, 0.30 mmol) in methanol-ammonia (5 mL) was stirred at room temperature for 0.5 h. Then the reaction mixture was concentrated to afford crude compound which was triturated with EtOAc to afford compound 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide (80 mg, 64%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6): δ 8.51 (d, J=1.88 Hz, 1H), 8.41 (s, 1H), 7.86 (s, 1H), 7.27 (dd, J1=8.4 Hz, J2=1.92 Hz, 1H), 7.02 (d, J=8.32 Hz, 1H), 5.43 (s, 1H), 4.40 (m, 3H), 3.54 (m, 4H), 2.65 (m, 4H), 1.46 (s, 6H); LC-MS (ESI & APCI): 414.6 (M+1).

reactant | 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.30 mmol, 130 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)N3CCOCC3 | C22H24N2O5S
reactant | methanol ammonia | 5 mL | CO.N
product | 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | 80 mg, 64% | OC(C#CC=1C=CC2=C(C=3N=C(SC3C(CO2)N2CCOCC2)C(=O)N)C1)(C)C | C21H23N3O4S
